US07737149B2
N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-5-(4-propan-2-yl-1,4-diazepan-1-yl)pyrazine-2-carboxamide
1-isopropyl-1,4-diazepane (228 mg, 1.60 mmol) was added to 5-chloro-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]pyrazine-2-carboxamide (310 mg, 0.80 mmol) in DMSO (4.00 ml) at 25° C. The resulting solution was stirred at room temperature for 2 hours. The reaction was incomplete so the temperature was increased to 60° C. and the reaction mixture was stirred for a further 2 h. The reaction was still incomplete so the reaction mixture was stirred for a further 18 h at room temperature. The reaction mixture was diluted with MeOH (5 ml) and the crude product was purified by ion exchange chromatography, using a SCX column. The desired product was eluted from the column using 7M NH3/MeOH and fractions were evaporated to dryness to afford crude product as an orange dry film. The crude product was purified by preparative HPLC, using decreasingly polar mixtures of water (containing 1% NH3) and MeCN as eluents. Fractions containing the desired compound were evaporated to dryness to afford the title compound (167 mg, 42%) as a pale yellow solid.

reactant | 1-isopropyl-1,4-diazepane | 1.60 mmol, 228 mg | C(C)(C)N1CCNCCC1 | C8H18N2
reactant | 5-chloro-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]pyrazine-2-carboxamide | 0.80 mmol, 310 mg | ClC=1N=CC(=NC1)C(=O)NC=1NN=C(C1)CCC1=CC(=CC(=C1)OC)OC | C18H18ClN5O3
solvent | DMSO | 4.00 ml | CS(=O)C | C2H6OS
solvent | MeOH | 5 ml | CO | CH4O
product | N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-5-(4-propan-2-yl-1,4-diazepan-1-yl)pyrazine-2-carboxamide | 167 mg, 42% | COC=1C=C(C=C(C1)OC)CCC=1C=C(NN1)NC(=O)C1=NC=C(N=C1)N1CCN(CCC1)C(C)C | C26H35N7O3
